US04281008
A solution of ethyl 3-(7-benzyloxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl)acrylate (6.0 g) in dichloromethane (150 ml) at -60° C. was treated with an excess of BCl3. After 3/4 hour the solution was poured onto ice and stirred. After 12 hours the mixture was extracted with ethyl acetate. The organic layer was separated, washed well (water), dried (MgSO4) and evaporated to afford a pale yellow solid. The latter was crystallised from aqueous ethanol to yield trans ethyl 3-(7-hydroxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl)acrylate (3.2 g) mp 203°-204° C.

reactant | ethyl 3-(7-benzyloxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl)acrylate | 6.0 g | C(C1=CC=CC=C1)OC1=C(C2=C(C(C=C(O2)C=CC(=O)OCC)=O)C=C1)CCC | C24H24O5
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | trans ethyl 3-(7-hydroxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl)acrylate | 3.2 g | OC1=C(C2=C(C(C=C(O2)/C=C/C(=O)OCC)=O)C=C1)CCC | C17H18O5
